US07074783B2
Step a): Preparation of 2-(2-nitrobenzylamino)succinic acid dimethyl ester
A mixture of D-aspartic acid dimethyl ester hydrochloride (4.2 g, 21.25 mmol) and sodium acetate (1.46 g, 17.85 mmol) was stirred in 25 mL of warm ethanol for 10 min. 2-Nitrobenzaldehyde (1.35 g, 8.936 mmol) was added and stirring was continued at room temperature for 1.5 h. Sodium cyanoborohydride (333.88 mg, 5.31 mmol) was added in portions over 5 min. and stirring at room temperature continued overnight. The reaction mixture was concentrated in vacuo, the residue was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate and sodium chloride solutions. The organic layer was dried (Na2SO4) and concentrated to give 2.62 g of the title compound as a light brown oil.

reactant | D-aspartic acid dimethyl ester hydrochloride | 21.25 mmol, 4.2 g | Cl.COC([C@H](N)CC(=O)OC)=O
reactant | sodium acetate | 17.85 mmol, 1.46 g | C(C)(=O)[O-].[Na+]
reactant | 2-Nitrobenzaldehyde | 8.936 mmol, 1.35 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | Sodium cyanoborohydride | 5.31 mmol, 333.88 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-(2-nitrobenzylamino)succinic acid dimethyl ester | 2.62 g | COC(C(CC(=O)OC)NCC1=C(C=CC=C1)[N+](=O)[O-])=O | C13H16N2O6
